US05279764
A mixture of 10 mmol of 1-(2,3,4-trifluorophenyl)-4-propylcyclohex-1-ene (prepared from 2,3,4-trifluophenyllithium and 4-propylcyclohexanone and subsequent dehydration with p-toluenesulfonic acid), 0.1 g of palladium-on-active charcoal (1%) and 15 ml of toluene is hydrogenated to saturation at room temperature. After filtration and removal of the solvent, the residue is dissolved in 15 ml of dimethyl sulfoxide, 1.2 g of potassium tert.-butanolate are added and the mixture is stirred at room temperature for 2 hours. Acidification and customary working up give trans-1-(2,3,4-trifluorophenyl)-4-propylcyclohexane.

reactant | 1-(2,3,4-trifluorophenyl)-4-propylcyclohex-1-ene | 10 mmol | FC1=C(C=CC(=C1F)F)C1=CCC(CC1)CCC | C15H17F3
catalyst | palladium | 0.1 g | [Pd] | Pd
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
product | trans-1-(2,3,4-trifluorophenyl)-4-propylcyclohexane | FC1=C(C=CC(=C1F)F)[C@@H]1CC[C@H](CC1)CCC | C15H19F3
